US08084484B2
e) 2-(3,4-Diaminophenyl)propanoic acid
To the flask was added EtOH/H2O (3.5:1, 45 mL) followed by 2-(4-Amino-3-nitro-phenyl)-propionic acid (5.73 g, 27.3 mmol) and 10% palladium carbon (117 mg) at room temperature. The reaction mixture was hydrogenated and stirred for 5 hrs at 64 psi then filtered through celite bed, and washed with EtOH. The filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using CH2Cl2:MeOH (10:1) as eluant.

reactant | 2-(4-Amino-3-nitro-phenyl)-propionic acid | 27.3 mmol, 5.73 g | NC1=C(C=C(C=C1)C(C(=O)O)C)[N+](=O)[O-] | C9H10N2O4
catalyst | palladium carbon | 117 mg | [C].[Pd]
solvent | EtOH H2O | 45 mL | CCO.O
product | 2-(3,4-Diaminophenyl)propanoic acid | NC=1C=C(C=CC1N)C(C(=O)O)C | C9H12N2O2
